US05229379
A solution of 1.80 g of (2S)-3-(p-chlorobenzylamino)-2-hydroxypropyl(benzyl)phosphinic acid ethyl ester in 30 ml of semi-concentrated hydrochloric acid is heated under reflux, a whitish suspension forming after 30 minutes. The mixture is heated under reflux for a further 20 hours and cooled to 0°, and the solid portion is filtered off, washed with water and dried under reduced pressure at 60°. Recrystallisation from aqueous methanol and drying yield 3-(p-chlorobenzylamino)-2-(2S)-hydroxypropyl(benzyl)phosphinic acid hydrochloride having a melting point of 211.5°-212°.

reactant | (2S)-3-(p-chlorobenzylamino)-2-hydroxypropyl(benzyl)phosphinic acid ethyl ester | 1.80 g | C(C)OP(=O)(CC1=CC=CC=C1)C[C@H](CNCC1=CC=C(C=C1)Cl)O | C19H25ClNO3P
solvent | hydrochloric acid | 30 ml | Cl | ClH
product | 3-(p-chlorobenzylamino)-2-(2S)-hydroxypropyl(benzyl)phosphinic acid hydrochloride | Cl.ClC1=CC=C(CNC[C@@H](CP(O)(=O)CC2=CC=CC=C2)O)C=C1 | InChI=1S/C17H21ClNO3P.ClH/c18-16-8-6-14(7-9-16)10-19-11-17(20)13-23(21,22)12-15-4-2-1-3-5-15;/h1-9,17,19-20H,10-13H2,(H,21,22);1H/t17-;/m0./s1
